US06340679B1
(c) (2S)-2-(Naphthalene-1-sulfonylamino)-3-{4-[3-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-propoxy]-phenyl}-propionic acid
31 mg of (2S)-2-(naphthalene-1-sulfonylamino)-3-{4-[3-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-propoxy]-phenyl}-propionic acid tert-butyl ester were dissolved in trifluoroacetic acid/water (95/5) and stirred for 2 hours. The solvent was removed in vacuo, and the residue was dissolved in acetic acid/water and lyophilized. Yield 19.7 mg. MS (ES+): m/e=539.3 (M+H)+.

reactant | (2S)-2-(naphthalene-1-sulfonylamino)-3-{4-[3-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-propoxy]-phenyl}-propionic acid tert-butyl ester | 31 mg | C(C)(C)(C)OC([C@H](CC1=CC=C(C=C1)OCCCC(NC=1NCCCN1)=O)NS(=O)(=O)C1=CC=CC2=CC=CC=C12)=O | C31H38N4O6S
solvent | trifluoroacetic acid water | FC(C(=O)O)(F)F.O
product | (2S)-2-(Naphthalene-1-sulfonylamino)-3-{4-[3-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-propoxy]-phenyl}-propionic acid | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)OCCCC(NC=1NCCCN1)=O | C27H30N4O6S
